US07084154B2
Hydrobromic acid (48%, 46 mL) was added to the 7-methoxy-1-methyl-1,2,3,4-tetrahydro-isoquinoline (2.55 g) and the resulting mixture was heated at reflux for 16 h. Evaporation of the hydrobromic acid, followed by trituation with ethyl acetate (3×) afforded 1-methyl-1,2,3,4-tetrahydro-isoquinolin-7-ol hydrogen bromide (3.04 g).

reactant | Hydrobromic acid | 46 mL | Br | BrH
reactant | 7-methoxy-1-methyl-1,2,3,4-tetrahydro-isoquinoline | 2.55 g | COC1=CC=C2CCNC(C2=C1)C | C11H15NO
product | 1-methyl-1,2,3,4-tetrahydro-isoquinolin-7-ol hydrogen bromide | 3.04 g | Br.CC1NCCC2=CC=C(C=C12)O | InChI=1S/C10H13NO.BrH/c1-7-10-6-9(12)3-2-8(10)4-5-11-7;/h2-3,6-7,11-12H,4-5H2,1H3;1H
